US05728835
4-(Pyrrole-1-yl)-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide (238.1 mg, 0.50 mmol) and 2,5-dimethoxytetrahydrofuran (0.066 ml, 0.50 mmol), the procedure of Inventive Example 149 was repeated to obtain 205.0 mg (78.0%) of the title compound in a light brown amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 0.50 mmol, 238.1 mg | NC1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | 2,5-dimethoxytetrahydrofuran | 0.50 mmol, 0.066 ml | COC1OC(CC1)OC | C6H12O3
product | 4-(Pyrrole-1-yl)-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 205.0 mg, 78.0% | N1(C=CC=C1)C1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C32H32FN3O3
